US04059641
In 100 ml of methanol was dissolved 10.0 g of 7-formyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol tetrahydropyranyl ether prepared in Example 2-(1), and to this solution was added 100 mg of p-toluenesulfonic acid. The mixture was allowed to stand overnight at room temperature and neutralized with an aqueous sodium hydrogencarbonate solution. The methanol was distilled off, and the residue was extracted with ether. (E,E,E)-7-Formyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol obtained from the etheral layer was dissolved in 60 ml of ethanol. After addition of 5.5 g of sodium borohydride under ice-cooling, the solution was vigorously stirred for 2 hours. The mixture was then treated with dilute acetic acid and, after addition of water, extracted with ether. The oil obtained from the ethereal layer was purified by the silica gel column chromatography, yielding 6.6 g of the desired (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol.

reactant | 7-formyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol tetrahydropyranyl ether | 10.0 g | O1C(CCCC1)OCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C=O)C | C25H40O3
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (E,E,E)-7-Formyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | C(=O)/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C20H32O2
